US06720320B2
5-methyl-2-(4-(3-(4-(3,4-methylenedioxyphenyl)piperidino) -propyloxy)benzo(b)furan-2-yl)-1,3,4-oxadiazole
5-Methyl-2-(4-(3-chloropropyloxy)benzo(b)furan-2-yl)-1,3,4-oxadiazole (1.0 g), 4-(3,4-methylenedioxyphenyl) -piperidine (0.7 g), potassium carbonate (1.5 g) and potassium iodide (1.0 g) were dissolved in a mixed solvent (50 ml) of DMF-toluene (2:1) and the solution was stirred with refluxing under heating at 80° C. for 4 hr. The reaction mixture was poured into water, extracted with ethyl acetate and dried. The solvent was evaporated under reduced pressure and the residue was purified by silica gel column chromatography (chloroform/methanol) to give the title compound (0.99 g) as white crystals, melting point 125-127° C.

reactant | 5-Methyl-2-(4-(3-chloropropyloxy)benzo(b)furan-2-yl)-1,3,4-oxadiazole | 1.0 g | CC1=NN=C(O1)C1=CC2=C(O1)C=CC=C2OCCCCl | C14H13ClN2O3
reactant | 4-(3,4-methylenedioxyphenyl) -piperidine | 0.7 g | C1OC=2C=C(C=CC2O1)C1CCNCC1 | C12H15NO2
reactant | potassium carbonate | 1.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 1.0 g | [I-].[K+]
solvent | DMF toluene | 50 ml | CN(C)C=O.C1(=CC=CC=C1)C
solvent | water | O | H2O
product | 5-methyl-2-(4-(3-(4-(3,4-methylenedioxyphenyl)piperidino) -propyloxy)benzo(b)furan-2-yl)-1,3,4-oxadiazole | 0.99 g | CC1=NN=C(O1)C1=CC2=C(O1)C=CC=C2OCCCN2CCC(CC2)C2=CC1=C(C=C2)OCO1 | C26H27N3O5
